US07166648B2
30 g of 3-methyl-2,4-pentandione and 0.4 g of 1,8-diazabicyclo-[5.4.0]-undec-7-ene were mixed and 39.3 g of ethyl acrylate was added dropwise with the temperature being controlled by cooling with ice. Stirring was continued for 16 hours, the base was neutralized, 50 ml of diethyl ether was added, and the mixture was extracted with an aqueous sodium carbonate solution and water. Fractional distillation of the organic layer yielded 33.4 g of 4-acetyl-4-methyl-5-oxo-hexanoic acid ethyl ester (boiling point: 95° C./0.02 mbar; purity: 98%; colorless).

reactant | 3-methyl-2,4-pentandione | 30 g | CC(C(C)=O)C(C)=O | C6H10O2
reactant | ethyl acrylate | 39.3 g | C(C=C)(=O)OCC | C5H8O2
catalyst | 1,8-diazabicyclo-[5.4.0]-undec-7-ene | 0.4 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 4-acetyl-4-methyl-5-oxo-hexanoic acid ethyl ester | 33.4 g | C(C)OC(CCC(C(C)=O)(C)C(C)=O)=O | C11H18O4
